US07956191B2
2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-N-(3-hydroxy-propyl)-isonicotinamide was synthesized according to General method 3, starting with 145 mg (0.33 mmol) of 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid and 62 mg (0.82 mmol) of 3-Amino-propan-1-ol. LC/MS: [9.15 min, 494, 496]

reactant | 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid | 0.33 mmol, 145 mg | BrC=1C=C(C(=O)O)C(=CN1)NC1=C(C=C(C=C1)I)F | C12H7BrFIN2O2
reactant | 3-Amino-propan-1-ol | 0.82 mmol, 62 mg | NCCCO | C3H9NO
product | 2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-N-(3-hydroxy-propyl)-isonicotinamide | BrC=1C=C(C(=O)NCCCO)C(=CN1)NC1=C(C=C(C=C1)I)F | C15H14BrFIN3O2
